US06716851B2
4-(3-Cyanoanilino)-6-methyl-2-(2-pyridinyl)pyrimidine
The title compound was prepared from 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine (100 mg, 0.486 mmol) and 3-aminobenzonitrile (57 mg, 0.486 mmol) similar to Example 11 and isolated as a pale white solid (107 mg, 76%). 1H NMR (DMSO-d6): 10.14 (s, 1H), 8.78-8.75 (m, 1H), 8.56 (s, 1H), 8.32 (d, J=7.8 Hz, 1H), 8.04-7.96 (m, 2H), 7.60-7.47 (m, 3H), 6.75 (s, 1H) 2.47 (s, 3H).

reactant | 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine | 0.486 mmol, 100 mg | ClC1=NC(=NC(=C1)C)C1=NC=CC=C1 | C10H8ClN3
reactant | 3-aminobenzonitrile | 0.486 mmol, 57 mg | NC=1C=C(C#N)C=CC1 | C7H6N2
product | 4-(3-Cyanoanilino)-6-methyl-2-(2-pyridinyl)pyrimidine | C(#N)C=1C=C(NC2=NC(=NC(=C2)C)C2=NC=CC=C2)C=CC1 | C17H13N5
